US05061794
10 g (53.6 mmol) of 2-chloro-3',4'-dihydroxyacetophenone was dissolved in 50 ml of acetone, and 600 mg (4.0 mmol) of sodium iodide and 5.23 g (80.5 mmol) of sodium azide were added thereto. The mixture was refluxed for 24 hours. Insoluble substances in the reaction solution were filtered off and concentrated under reduced pressure. Ethyl acetate was added to the reaction solution, and washed sequentially with water and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The oily residue was dissolved in 100 ml of methanol and 13.6 ml of concentrated hydrochloric acid, and 1.5 g of a 10% palladium carbon catalyst was added thereto. The mixture was stirred at 40° C. for 5 hours under hydrogen gas atmosphere. The reaction solution was filtered and the filtrate was concentrated under reduced pressure. To the concentrated residue, acetone was added, and the precipitated crystals were collected by filtration to obtain 5.5 g (yield: 50.4%) of 2-amino-3',4'-dihydroxyacetophenone hydrochloride.

reactant | 2-chloro-3',4'-dihydroxyacetophenone | 53.6 mmol, 10 g | ClCC(=O)C1=CC(=C(C=C1)O)O | C8H7ClO3
reactant | sodium iodide | 4.0 mmol, 600 mg | [I-].[Na+]
reactant | sodium azide | 80.5 mmol, 5.23 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-amino-3',4'-dihydroxyacetophenone hydrochloride | 5.5 g, yield: 50.4% | Cl.NCC(=O)C1=CC(=C(C=C1)O)O | InChI=1S/C8H9NO3.ClH/c9-4-8(12)5-1-2-6(10)7(11)3-5;/h1-3,10-11H,4,9H2;1H
